US03932662
To 102.4 g. of 2,3,4-pentanetrione 3-(phenylhydrazone) dissolved in 250 ml. of chloroform and cooled to about 15° C., 100 ml. of tert. butyl hypochlorite is added. The temperature rises to 25° C. and is allowed to cool to 15° C. before the next addition of 60 ml. (0.5 mole). No starting material remains and the solvent of the reaction mixture is evaporated to give a gum, which is dissolved in 250 ml. of methanol and then heated to about 40° C. The temperature of the solution varies from about 40° to about 60° C. for about 15 minutes, and is then cooled to about 0° C., and the precipitate filtered off and washed with cold methanol. The weight of the precipitate that melts at 134° to 136° C. is 71.3 g. (73% yield). A 10 g. portion of this compound is recrystallized from equal parts of ethyl acetate and Skellysolve B (hexanes) to give pure pyruvoyl chloride 1-(phenylhydrazone) melting at 135 to 137° C.

reactant | 2,3,4-pentanetrione 3-(phenylhydrazone) | C1(=CC=CC=C1)NN=C(C(C)=O)C(C)=O | C11H12N2O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | tert. butyl hypochlorite | ClOC(C)(C)C | C4H9ClO
solvent | methanol | CO | CH4O
product | pyruvoyl chloride 1-(phenylhydrazone) | 73% yield | C1(=CC=CC=C1)NN=C(C(=O)C)Cl | C9H9ClN2O
